US08809363B2
Step 2: (S)-2-(tert-butoxy)-2-(4-(4-(difluoromethyl)phenyl)-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetic acid
2 M Aqueous sodium hydroxide solution (1.93 mL, 3.86 mmol) was added to a solution of (S)-methyl 2-(tert-butoxy)-2-(4-(4-(difluoromethyl)phenyl)-2-methyl-5,6,7,8-tetrahydro benzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate (183 mg, 0.39 mmol) in 1:1 tetrohydrofuran/industrial methylated spirit (4 mL) at room temperature. The resulting mixture stirred at room temperature for 64 h. The reaction mixture was partitioned between ethyl acetate (20 mL) and water (10 mL). The aqueous solution was adjusted to pH 4 by the addition of 2 M aqueous hydrochloric acid solution. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×10 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo to give the crude product as a pale orange solid. This was purified by flash column chromatography on silica eluting with methanol in dichloromethane (3-5%) to give the title compound (111 mg, 63%) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ=1.01 (s, 9H), 1.90-1.35 (m, 6H), 2.70 (s, 3H), 2.85-2.78 (m, 2H), 5.07 (brs, 1H), 6.75 (t, 1H), 7.34-7.41 (brm, 1H), 7.61 (d, 2H), 7.80-7.70 (brm, 1H). LCMS (run time=5 minutes, basic): Rt=3.04 minutes; m/z 460.22 [M+H+].

reactant | sodium hydroxide | 3.86 mmol, 2 M, 1.93 mL | [OH-].[Na+]
reactant | (S)-methyl 2-(tert-butoxy)-2-(4-(4-(difluoromethyl)phenyl)-2-methyl-5,6,7,8-tetrahydro benzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate | 0.39 mmol, 183 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=CC=C(C=C1)C(F)F | C26H29F2NO3S
product | (S)-2-(tert-butoxy)-2-(4-(4-(difluoromethyl)phenyl)-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetic acid | 111 mg, 63% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=CC=C(C=C1)C(F)F | C25H27F2NO3S
